US05622982
a) 1-[(1S)-Camphanoyl]amino-1-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane
To a solution of 0.38 g of 1-amino-1-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane (racemic compound, see A) above) in 4 ml of dry dichloromethane is added 0.26 g (0.36 ml) of triethylamine. The mixture is stirred and cooled to -79°. Then 0.44 g of (1S)(-)-camphanic acid chloride are added in such a way that the temperature does not exceed -74°. Stirring is continued for additionally 90 minutes without further cooling. For working up the mixture is poured onto ice-water, extracted three times with dichloromethane and washed with brine. After drying with sodium sulfate the solvent is evaporated. A mixture of the two diastereomeric amides is obtained which is separated by chromatography over silica gel (dichloromethane/methanol/heptane=10/1/5). The two compounds are obtained as white crystals:

reactant | 1-amino-1-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane | 0.38 g | NC(CN1C=NC=C1)C1=NC=C(C=C1)Cl | C10H11ClN4
reactant | triethylamine | 0.36 ml, 0.26 g | C(C)N(CC)CC | C6H15N
reactant | (1S)(-)-camphanic acid chloride | 0.44 g | [C@]12(C(CC(CC1)C2(C)C)C(=O)Cl)C | C11H17ClO
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-[(1S)-Camphanoyl]amino-1-(5-chloro-2-pyridyl)-2-(1H-imidazol-1-yl)ethane | [C@]12(C(CC(CC1)C2(C)C)C(=O)NC(CN2C=NC=C2)C2=NC=C(C=C2)Cl)C | C21H27ClN4O
